US08278442B2
Preparation 11: 5-Methoxynaphthalene-1-carbonitrile
To a solution of 1-iodo-5-methoxynapthalene (J. A. O'Meara et al., J. Med. Chem., 2005, 48, 5580-5588 1.104 g, 3.89 mmol) in dimethylacetamide (6 mL) at rt under nitrogen, was added potassium ferrocyanide (494 mg, 1.17 mmol), Na2CO3 (412 mg, 3.89 mmol) and palladium acetate (43 mg, 0.19 mmol). The reaction mixture was stirred at 120° C. for 3 h, cooled, diluted with EtOAc (100 mL) and filtered through Celite. The organic phase was washed with water (30 mL), NaHCO3 (30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (isohexane:EtOAc, 90:10 to 85:15) to give the title compound: RT=3.64 min; m/z (ES+)=184.0 [M+H]+.

reactant | 1-iodo-5-methoxynapthalene | IC1=CC=CC2=C(C=CC=C12)OC | C11H9IO
reactant | Na2CO3 | 3.89 mmol, 412 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | potassium ferrocyanide | 1.17 mmol, 494 mg | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+].[K+]
catalyst | palladium acetate | 0.19 mmol, 43 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Methoxynaphthalene-1-carbonitrile | COC1=C2C=CC=C(C2=CC=C1)C#N | C12H9NO
